US04444788
(5Z,13E)-(8R,9R,11R,12R,15R)-9-Chloro-11,15-dihydroxy-16,16,19-trimethyl-5,13,18-prostatrienoic Acid
1.04 g of (5Z,13E)-(8R,9R,11R,12R,15R)-9-chloro-11,15-bis(tetrahydropyran-2-yloxy)-16,16,19-trimethyl-5,13,18-prostatrienoic acid was stirred under argon at room temperature for 19 hours with 21 ml of a mixture of acetic acid/water/tetrahydrofuran (65/35/10). The mixture was then evaporated under vacuum and the residue purified by column chromatography on silica gel with hexane/0-100% ethyl acetate as the eluent, thus obtaining 380 mg of the title compound.

reactant | (5Z,13E)-(8R,9R,11R,12R,15R)-9-chloro-11,15-bis(tetrahydropyran-2-yloxy)-16,16,19-trimethyl-5,13,18-prostatrienoic acid | 1.04 g | Cl[C@H]1[C@H](C\C=C/CCCC(=O)O)[C@H]([C@@H](C1)OC1OCCCC1)\C=C\[C@H](C(CC=C(C)C)(C)C)OC1OCCCC1 | C33H53ClO6
solvent | acetic acid water tetrahydrofuran | C(C)(=O)O.O.O1CCCC1
product | (5Z,13E)-(8R,9R,11R,12R,15R)-9-Chloro-11,15-dihydroxy-16,16,19-trimethyl-5,13,18-prostatrienoic Acid | 380 mg | Cl[C@H]1[C@H](C\C=C/CCCC(=O)O)[C@H]([C@@H](C1)O)\C=C\[C@H](C(CC=C(C)C)(C)C)O | C23H37ClO4
